US09290451B2
d) α,α,5-Trimethyl-1,2,4-oxadiazole-3-methanamine
tert-Butyl-2-(5-methyl-1,2,4-oxadiazol-3-yl)propan-2-ylcarbamate (5.38 g) was dissolved in in ethyl acetate (30 mL) saturated with hydrochloride and stirred at room temperature for 1 h. Then water (50 mL) was added. The aqueous phase was washed with ethyl acetate (2×30 mL) and the pH adjusted with 1 M sodium hydroxide solution to 9˜10. The solution was extracted with ethyl acetate (2×30 mL). The combined extracts were washed with brine and dried over anhydrous sodium sulfate. Removal of the solvent under reduced pressure left the title compound (1.7 g, 54%) as colorless oil; MS: m/e 142.2 [M+H]+.

reactant | tert-Butyl-2-(5-methyl-1,2,4-oxadiazol-3-yl)propan-2-ylcarbamate | 5.38 g | C(C)(C)(C)OC(NC(C)(C)C1=NOC(=N1)C)=O | C11H19N3O3
reactant | water | 50 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | hydrochloride | Cl | ClH
product | α,α,5-Trimethyl-1,2,4-oxadiazole-3-methanamine | CC(N)(C1=NOC(=N1)C)C | C6H11N3O
